US08048909B2
1-[(2,5-Dimethoxyphenyl)sulfonyl]-4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde
Using 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde (185 mg), sodium hydride (60% in oil, 72 mg), 15-crown-5 (330 mg) and 2,5-dimethoxybenzenesulfonyl chloride (355 mg), a procedure as in Reference Example 219 was performed to give the title compound as a pale-yellow powder (yield 330 mg, 86%).

reactant | 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | 185 mg | CC=1C(=CNC1C1=CC=CC=C1)C=O | C12H11NO
reactant | sodium hydride | 72 mg | [H-].[Na+]
reactant | 15-crown-5 | 330 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2,5-dimethoxybenzenesulfonyl chloride | 355 mg | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | 1-[(2,5-Dimethoxyphenyl)sulfonyl]-4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | yield 330 mg, 86% | COC1=C(C=C(C=C1)OC)S(=O)(=O)N1C=C(C(=C1C1=CC=CC=C1)C)C=O | C20H19NO5S
